US07696240B2
3-(3-Carboxy-propyl)-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid
3-(3-Carboxy-propyl)-1H-indole-2-carboxylic acid (Lit. 3) was esterified using HCl/MeOH to give the 3-(3-methoxycarbonyl-propyl)-1H-indole-2-carboxylic acid methyl ester. Using general procedure B, 3-(3-methoxycarbonyl-propyl)-1H-indole-2-carboxylic acid methyl ester was coupled with 1-bromomethyl-naphthalene and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 386.3 ([M−H]−).

reactant | 3-(3-methoxycarbonyl-propyl)-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC=CC=C2C1CCCC(=O)OC | C15H17NO4
reactant | 1-bromomethyl-naphthalene | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
product | 3-(3-Carboxy-propyl)-1-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid | C(=O)(O)CCCC1=C(N(C2=CC=CC=C12)CC1=CC=CC2=CC=CC=C12)C(=O)O | C24H21NO4
